US07935722B2
N-[6-Cyano-9-(2-trifluoromethyl-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide
Suspend sodium hydride (60% in oil, 48 mg, 1.20 mmol) in N,N-dimethylformamide (2.5 mL) and chill to 0° C. Add slowly a solution of N-(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide (281 mg, 1.00 mmol) in N,N-dimethylformamide (2.5 mL) via syringe, and stir 10 min before warming to ambient temperature for 30 min. Add 2-(trifluoromethyl)benzyl bromide (263 mg, 1.10 mmol) and stir approximately 16 h. Add ethyl acetate (75 mL), wash with water (50 mL) and brine (2×50 mL). Dry the organic phase over magnesium sulfate, filter, and evaporate under reduced pressure. Triturate the residue with 2:1 bexanes:methylene chloride to afford the title compound (333 mg, 76%). MS (ES): m/z 440 (M+1); 1H NMR (300 MHz, CDCl3): δ 7.83 (s, 1H), 7.73 (d, J=7.2 Hz, 1H), 7.39-7.29 (m, 3H), 7.16 (d, J=8.4 Hz, 1H), 6.27 (d, J=7.4 Hz, 1H), 5.53-5.51 (m, 1H), 5.46 (s, 2H), 4.47-4.30 (m, 1H), 3.21-3.15 (m, 1H), 2.67-2.59 (m, 3H), 2.33 (septet, J=6.8 Hz, 1H), 2.16-2.11 (m, 1H), 2.03-1.93 (m, 1H), 1.16 (d, J=6.8 Hz, 3H), 1.15 (d, J=6.8 Hz, 3H); m.p.=222-225° C.

reactant | sodium hydride | 1.20 mmol, 48 mg | [H-].[Na+]
reactant | N-(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 1.00 mmol, 281 mg | C(#N)C=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O | C17H19N3O
reactant | 2-(trifluoromethyl)benzyl bromide | 1.10 mmol, 263 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | N-[6-Cyano-9-(2-trifluoromethyl-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 333 mg, 76% | C(#N)C=1C=C2C=3CC(CCC3N(C2=CC1)CC1=C(C=CC=C1)C(F)(F)F)NC(C(C)C)=O | C25H24F3N3O
